US07378420B2
E. Synthesis of N-benzhydryl-4-((4-fluorophenyl)(1-methylpiperidin-4-yl)methyl)piperazine-1-carboxamide
To a solution of 1-((4-fluorophenyl)(1-methylpiperidin-4-yl)methyl)piperazine 0.1 g (0.343 mmol) dissolved in methylene chloride (20 ml) was added diphenylmethyl isocyanate 0.073 g (0.343 mmol) and the reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was washed with saturated sodium bicarbonate solution and brine, dried over sodium sulfate and concentrated. The residue was applied to flash column chromatography using methylene chloride and methanol (100:10) as eluents to give 0.13 g of desired product.

reactant | 1-((4-fluorophenyl)(1-methylpiperidin-4-yl)methyl)piperazine | 0.343 mmol, 0.1 g | FC1=CC=C(C=C1)C(N1CCNCC1)C1CCN(CC1)C | C17H26FN3
reactant | diphenylmethyl isocyanate | 0.343 mmol, 0.073 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)N=C=O | C14H11NO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-benzhydryl-4-((4-fluorophenyl)(1-methylpiperidin-4-yl)methyl)piperazine-1-carboxamide | 0.13 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(=O)N1CCN(CC1)C(C1CCN(CC1)C)C1=CC=C(C=C1)F | C31H37FN4O
